US07220744B2
(d) 2-Cyclopentyloxy-5-methylsulfamoyl-benzoic acid methyl ester
To 2.85 mmol 2-hydroxy-5-methylsulfamoyl-benzoic acid methyl ester, 3.14 mmol cyclopentanol and 3.28 mmol triphenylphosphine in 10 ml THF was added 3.14 mmol di-tert-butyl azodicarboxylate and the mixture was stirred at RT for 2 h. The mixture was then concentrated in vacuo. The residue was chromatographed on silica gel (eluant: ethyl acetate/heptane 2:3) to afford the title compound as a colourless oil. MS (m/e): 312.1 ([M−H]−, 100%)

reactant | 2-hydroxy-5-methylsulfamoyl-benzoic acid methyl ester | 2.85 mmol | COC(C1=C(C=CC(=C1)S(NC)(=O)=O)O)=O | C9H11NO5S
reactant | cyclopentanol | 3.14 mmol | C1(CCCC1)O | C5H10O
reactant | triphenylphosphine | 3.28 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 3.14 mmol | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-Cyclopentyloxy-5-methylsulfamoyl-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)S(NC)(=O)=O)OC1CCCC1)=O | C14H19NO5S
